US06521643B1
To a suspension of 4-(4-methoxypyridin-2-yl)fluorobenzene (0.71 g) in sulfuric acid (10 ml) was added fuming nitric acid (0.176 ml) dropwise at 0° C., and the mixture was stirred at 0° C. for 30 minutes. The reaction mixture was poured into an aqueous sodium hydroxide solution (4N) and extracted with ethyl acetate. The separated organic layer was washed with water and brine, dried over sodium sulfate and evaporated under reduced pressure to give 2-fluoro-5-(4-methoxypyridin-2-yl)nitrobenzene (831 mg).

reactant | 4-(4-methoxypyridin-2-yl)fluorobenzene | 0.71 g | COC1=CC(=NC=C1)C1=CC=C(C=C1)F | C12H10FNO
reactant | nitric acid | 0.176 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-fluoro-5-(4-methoxypyridin-2-yl)nitrobenzene | 831 mg | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C12H9FN2O3
